US04542132
1-benzyl-4-(1-ethoxycarbonyl)ethyl-1,2,3,6-tetrahydropyridine (18.0 g) in dry ether (70 cm3) was added dropwise at 0° to a stirred suspension of lithium aluminium hydride (2.7 g) in ether (70 cm3) over 0.5 hours. After 1 hour 1M sodium hydroxide (15 cm3) solution was added dropwise over 0.5 hours and after stirring for a further 1 hour magnesium sulphate (10 g) was added. The mixture was filtered, the filtrate evaporated in vacuo and the residue distilled to afford 1-benzyl-4-(1-hydroxyprop-2-yl)-1,2,3,6-tetrahydropyridine as an oil b.p. 200° 0.05 mm (Kugelrohr) (12.43 g).

reactant | 1-benzyl-4-(1-ethoxycarbonyl)ethyl-1,2,3,6-tetrahydropyridine | 18.0 g | C(C1=CC=CC=C1)N1CCC(=CC1)CCC(=O)OCC | C17H23NO2
reactant | lithium aluminium hydride | 2.7 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium hydroxide | 1M, 15 cm3 | [OH-].[Na+]
reactant | magnesium sulphate | 10 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | ether | 70 cm3 | CCOCC | C4H10O
reactant | ether | 70 cm3 | CCOCC | C4H10O
product | 1-benzyl-4-(1-hydroxyprop-2-yl)-1,2,3,6-tetrahydropyridine | C(C1=CC=CC=C1)N1CCC(=CC1)C(CO)C | C15H21NO
